US07544697B2
A solution of 1-(2-aminoethyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride (7.20 g, 22.9 mmol) in trifluoroacetic acid (75 mL) was treated with platinum (IV) oxide (7.0 g) and shaken under hydrogen pressure (50 psi, 3.4×105 Pa) for 24 hours on a Parr apparatus. The reaction mixture was diluted with chloroform (50 mL) and methanol (25 mL) and filtered through a layer of CELITE filter agent. The filtrate was concentrated under reduced pressure. The residue was suspended in concentrated hydrochloric acid (5 mL), stirred for 2 hours, treated with 50% aqueous sodium hydroxide to adjust the pH to 13, and stirred at ambient temperature overnight. The mixture was diluted with water (100 mL) and was extracted with chloroform (5×150 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield 5.10 g of 1-(2-aminoethyl)-2-methyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine as an off-white foam.

reactant | 1-(2-aminoethyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine dihydrochloride | 22.9 mmol, 7.20 g | Cl.Cl.NCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C
solvent | trifluoroacetic acid | 75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 25 mL | CO | CH4O
catalyst | platinum (IV) oxide | 7.0 g | [Pt](=O)=O
product | 1-(2-aminoethyl)-2-methyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine | 5.10 g | NCCC=1N(N=C2C(=NC=3CCCCC3C21)N)C | C13H19N5
